US04074047
2-(2-Aminocarbonylprop-2-yloxyimino)-2-(fur-2-yl)acetic acid (syn isomer)
2-(2-Ethoxycarbonylprop-2-yloxyimino)-2-(fur-2-yl) acetic acid (syn isomer) (2.0 g) was dissolved in concentrated aqueous ammonia (50 ml) and the solution stood at room temperature for 22 hours. Most of the ammonia was removed by evaporation and the solution was then acidified with concentrated hydrochloric acid and extracted with ether. The ether extracts were washed with brine and dried and the solvent was removed to give a white solid. Trituration with dichloromethane gave the title compound (1.37 g, 77%), m.p. 160°-162°; λ max (EtOH) 271nm (ε 15,100).

reactant | 2-(2-Ethoxycarbonylprop-2-yloxyimino)-2-(fur-2-yl) acetic acid | 2.0 g | C(C)OC(=O)C(C)(C)ON=C(C(=O)O)C=1OC=CC1 | C12H15NO6
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | ammonia | 50 ml | N | H3N
product | 2-(2-Aminocarbonylprop-2-yloxyimino)-2-(fur-2-yl)acetic acid | 1.37 g, 77% | NC(=O)C(C)(C)ON=C(C(=O)O)C=1OC=CC1 | C10H12N2O5
